US07435731B2
To (R)-2,2-dimethyl-1,3-dioxolane-4-ethanol (2.12 g) in 10 mL dioxane was added sodium hydride (0.656 g) at 0° C. The resulting mixture was stired for 10 minutes, and then 4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (1.0 g, 3.213 mmol) was added. The reaction mixture was heated to reflux for one hour, then cooled to room temperature. Water (150 mL) and ethyl acetate (300 mL) was added, and the layers separated. The aqueous layer was washed four times with ethyl acetate, and the combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (20% to 30% EtOAc in hexanes) to yield 1.03 g of 3-(2-Chloro-phenyl)4-(2,2-dimethyl-[1,3]dioxolan 4-ylmethoxy)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine. Mass Spec. M+H=407. Mp.=119.5-122.3° C.

reactant | (R)-2,2-dimethyl-1,3-dioxolane-4-ethanol | 2.12 g | CC1(OC[C@H](O1)CCO)C | C7H14O3
reactant | sodium hydride | 0.656 g | [H-].[Na+]
reactant | 4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 3.213 mmol, 1.0 g | ClC1=C2C(=NC(=N1)SC)NN=C2C2=C(C=CC=C2)Cl | C12H8Cl2N4S
reactant | Water | 150 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Chloro-phenyl)4-(2,2-dimethyl-[1,3]dioxolan 4-ylmethoxy)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 1.03 g | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)OCC2OC(OC2)(C)C)SC | C18H19ClN4O3S
